US07985753B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(7-fluoro-1-methyl-3,4-dihydro-1H-isoquinolin-2-yl)-methanone
A solution of 80 mg (0.33 mmol) of 6-Bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid, 66 mg (0.40 mmol) of 7-fluoro-1-methyl-1,2,3,4-tetrahydro-isoquinoline, 63 mg (0.33 mmol) of EDC and 50 mg (0.12 mmol) of HOBt in 2 mL of DMF is stirred at room temperature for 24 h. The mixture is concentrated in vacuo and the solid residue is partitioned between methylene chloride (3 mL) and saturated aqueous sodium hydrocarbonate solution (3 mL). The organic layer is separated, washed with 0.5 N HCl, water and brine and concentrated in vacuo.

reactant | 6-Bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | 0.33 mmol, 80 mg | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 7-fluoro-1-methyl-1,2,3,4-tetrahydro-isoquinoline | 0.40 mmol, 66 mg | FC1=CC=C2CCNC(C2=C1)C | C10H12FN
reactant | EDC | 0.33 mmol, 63 mg
reactant | HOBt | 0.12 mmol, 50 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(7-fluoro-1-methyl-3,4-dihydro-1H-isoquinolin-2-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=CC(=CC=C1CC2)F)C | C17H14BrFN4O
